US03931178
To a suspension of 0.4 g. of sodium hydride in 60 ml. of dimethylacetamide is added 2.5 g. of 1-(4'-fluorobenzyl)-2-amino-pyrido[2,3-d]pyrimidin-4(1H)-one while maintaining the system under nitrogen. After stirring for one hour at room temperature, the mixture is treated by addition of 1.0 ml. of methyliodide. The resulting mixture is stirred at 20°C. for 15 hours. A small amount of water (ca 1.0 ml.) is then added and the mixture evaporated in vacuo. The residue is treated with ice/water and the resulting precipitate is recovered by filtering, washed with water and dried. The dried precipitate is then dissolved in methylene chloride, treated with charcoal and filtered through neutral alumina. The filtrate is concentrated in vacuo and ether added to obtain on crystallization 1-(4'-fluorobenzyl)-2,3-dihydro-2-imino-3-methyl-pyrido[2,3-d]pyrimidin-4(1H)-one

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | 1-(4'-fluorobenzyl)-2-amino-pyrido[2,3-d]pyrimidin-4(1H)-one | FC1=CC=C(CN2C(=NC(C3=C2N=CC=C3)=O)N)C=C1 | C14H11FN4O
reactant | methyliodide | CI | CH3I
solvent | water | ca 1.0 ml | O | H2O
product | 1-(4'-fluorobenzyl)-2,3-dihydro-2-imino-3-methyl-pyrido[2,3-d]pyrimidin-4(1H)-one | FC1=CC=C(CN2C(N(C(C3=C2N=CC=C3)=O)C)=N)C=C1 | C15H13FN4O
